US05670466
Phenoxanol (30.00 g, 0.168 mol) and pyridine (130 mL) are combined in a flask fitted with a condenser, internal thermometer, mechanical stirrer and argon inlet. The solution is cooled to -10° C. and to it is added p-toluenesulfonyl chloride (39.28 g, 0.202 tool) in portions via Gooch tubing so as to maintain the reaction temperature between -10°-0° C. After 3 h, water (20 mL) is added in portions so as to keep the temperature of the reaction below 5° C. The reaction mixture is warmed to room temperature and then poured into a separatory funnel containing 275 mL of ether. The layers are separated and the organic layer is washed with 5 M H2SO4 (75 mL), saturated CuSO4 solution (75 mL), water (2×75 mL) and saturated NaHCO3 solution (75 mL). After drying over MgSO4, the organic layer is filtered and concentrated to leave a light yellow liquid as phenoxanyl p-toluenesulfonate. Purity of the product is determined by thin layer chromatography and the structure confirmed by 1H and 13C NMR.

reactant | Phenoxanol | 0.168 mol, 30.00 g | CC(CCC1=CC=CC=C1)CCO | C12H18O
reactant | pyridine | 130 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 39.28 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 20 mL | O | H2O
solvent | ether | 275 mL | CCOCC | C4H10O
product | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
